US08030499B2
Step 253-1: Synthesis of [(1S)-2-(dimethylamino)-1-methyl-2-oxo ethyl](pyridin-2-ylmethyl) carbamic acid
Under nitrogen atmosphere, to a solution of 2.00 g of benzyl[(1S)-2-(dimethylamino)-1-methyl-2-oxo ethyl]carbamate in DMF was added 0.33 g of NaH under ice cooling and the reaction mixture was stirred at room temperature for 10 minutes. Therein, a solution of 3.25 g of 2-(bromo methyl)pyridine in DMF (15 ml) was added, and the solution was stirred at room temperature for 3 hours. A saturated aqueous solution of NaHCO3 was added to the reaction solution, and the resulting mixture was extracted with EtOAc. The combined organic layer was washed with water and with saturated brine and dried over MgSO4, then, the drying agent was separated by filtration and the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60N, moving bed: CHCl3/EtOAc=1/1; v/v) to obtain 1.04 g of the title compound (colorless oil).

reactant | benzyl[(1S)-2-(dimethylamino)-1-methyl-2-oxo ethyl]carbamate | 2.00 g | C(C1=CC=CC=C1)OC(N[C@H](C(=O)N(C)C)C)=O | C13H18N2O3
reactant | NaH | 0.33 g | [H-].[Na+]
reactant | 2-(bromo methyl)pyridine | 3.25 g | BrCC1=NC=CC=C1 | C6H6BrN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | [(1S)-2-(dimethylamino)-1-methyl-2-oxo ethyl](pyridin-2-ylmethyl) carbamic acid | 1.04 g | CN(C([C@H](C)N(C(O)=O)CC1=NC=CC=C1)=O)C | C12H17N3O3
